US08809352B2
To a solution of 4′-chloro-2-(iodomethyl)biphenyl in toluene (11 mL), triphenylphosphine (1.20 g, 4.57 mmol) was added. The result mixture was refluxed overnight, allowed to cool to room temperature and filtered. The solid was washed with ether and dried under vacuum to afford ((4′-Chlorobiphenyl-2-yl)methyl)triphenylphosphonium iodide (2.50 g, 93%): 1H NMR (400 MHz, chloroform-d) δ ppm 6.35-8.06 (m, 23 H), 5.12-5.63 (m, 2 H).

reactant | 4′-chloro-2-(iodomethyl)biphenyl | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CI | C13H10ClI
reactant | triphenylphosphine | 4.57 mmol, 1.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
product | ((4′-Chlorobiphenyl-2-yl)methyl)triphenylphosphonium iodide | 2.50 g, 93% | [I-].ClC1=CC=C(C=C1)C1=C(C=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H25ClP.HI/c32-27-22-20-25(21-23-27)31-19-11-10-12-26(31)24-33(28-13-4-1-5-14-28,29-15-6-2-7-16-29)30-17-8-3-9-18-30;/h1-23H,24H2;1H/q+1;/p-1
